US08431575B2
A stirred suspension of 1-bromo-4-cyclohexyloxy-benzene (3.92 mmol, 1.0 g), cyclohexylmethylketone (5.92 mmol, 0.83 mL), (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.88 mmol, 1.17 g), tris(dibenzylideneacetone)dipalladium(0) (0.78 mmol, 0.72 g), and potassium t-butoxide (7.84 mmol, 0.88 g) were heated to 90° C. for 12 h in a sealed vial. The reaction was cooled and partitioned in water (50 mL) and diethyl ether (50 mL). The mixture was filtered through fluted filter paper and the layers were separated. The aqueous layer was washed with diethyl ether (3×20 mL). The combined organic layers were washed with brine (10 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified on a 24 g SiO2 cartridge using an ethyl acetate/hexanes gradient to give 1-cyclohexyl-2-(4-cyclohexyloxy-phenyl)-ethanone (0.35 g).

reactant | 1-bromo-4-cyclohexyloxy-benzene | 3.92 mmol, 1.0 g | BrC1=CC=C(C=C1)OC1CCCCC1 | C12H15BrO
reactant | cyclohexylmethylketone | 5.92 mmol, 0.83 mL | C1(CCCCC1)C(=O)C | C8H14O
reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.88 mmol, 1.17 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | potassium t-butoxide | 7.84 mmol, 0.88 g | CC(C)([O-])C.[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.78 mmol, 0.72 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-cyclohexyl-2-(4-cyclohexyloxy-phenyl)-ethanone | 0.35 g | C1(CCCCC1)C(CC1=CC=C(C=C1)OC1CCCCC1)=O | C20H28O2
